US08304557B2
ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-5-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate
To a solution of N-{3-[(6-aminopyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (2.23 g, 5.43 mmol) in DMSO (30 mL) was added ethyl isothiocyanatoformate (770 μL, 6.52 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→50/50) to give the title compound (2.65 g, 88%) as a pale-yellow oil.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 5.43 mmol, 2.23 g | NC1=CC=C(C=N1)OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C | C18H19N5O2
reactant | ethyl isothiocyanatoformate | 6.52 mmol, 770 μL | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-5-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate | 2.65 g, 88% | CN1N=C(C=C1C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=C(C1)C)C | C22H24N6O4S
